US04182775
5-(2-[4-Chloro-benzamido]-ethyl)-2 -methyl-benzoic acid-ethyl-ester
6 Grams of 5-(2-[4-chloro-benzamido]-ethyl)-2-methyl-benzoic acid in 50 ml of ethanol are boiled for 4 hours with 1.5 ml of concentrated sulfuric acid at the reflux condenser. Subsequently the alcohol is distilled off for the most part, the residue is mixed with ice, the precipitate is filtered off with suction, is treated with diluted ammonia in order to remove the acid still present and is recrystallized from diluted ethanol. The 5-(2-[4-chloro-benzamido]-ethyl)-2-methyl-benzoic acid-ethylester obtained melts at a temperature in the range of from 116° to 118° C.

reactant | 5-(2-[4-chloro-benzamido]-ethyl)-2-methyl-benzoic acid | ClC1=CC=C(C(=O)NCCC=2C=CC(=C(C(=O)O)C2)C)C=C1 | C17H16ClNO3
reactant | sulfuric acid | 1.5 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(2-[4-Chloro-benzamido]-ethyl)-2 -methyl-benzoic acid-ethyl-ester | C(C)OC(C1=C(C=CC(=C1)CCNC(C1=CC=C(C=C1)Cl)=O)C)=O | C19H20ClNO3
